US07888366B2
3-Chlorophenylmagnesium bromide (3.4 mL, 3.4 mmol) was added to a cooled (−10° C.) solution of cyclohexanone (0.3 g, 3.1 mmol) in anhydrous tetrahydrofuran slowly over 30 min. After complete addition, the reaction mixture was slowly warmed to room temperature, stirred for 18 hours. Again cooled (−5° C.), than quenched with sat. ammonium chloride solution over 30 min. The reaction mixture was extracted with ethyl acetate, dried, filtered and concentrated to afford 550 mg of 1-(3-chlorophenyl)cyclohexanol.

reactant | 3-Chlorophenylmagnesium bromide | 3.4 mmol, 3.4 mL | ClC=1C=C(C=CC1)[Mg]Br
reactant | cyclohexanone | 3.1 mmol, 0.3 g | C1(CCCCC1)=O | C6H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3-chlorophenyl)cyclohexanol | 550 mg | ClC=1C=C(C=CC1)C1(CCCCC1)O | C12H15ClO
